Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Abacavir Sulfate / Aspirin
 
Attending: ___.
 
Chief Complaint:
Abdominal pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ year old ___ female with hx of HIV (last CD4 on 
___ = 210; last viral load < 55 copies/ml) who presents with 5 
days of worsening abdominal pain. Ms. ___ reports undergoing 
a colposcopy 6 days prior to presentation. She began having left 
sided sharp and bloating abdominal pain at that time, but 
assumed it was due to her procedure as well as her period, which 
began later that day. The pain began to worsen over the weekend 
and on ___ she reports having a "horrible sharp headache" 
that did not localize to any part of her head and mildly 
responded to 8 advil pills. She was unable to sleep that 
evening. The following day, she was unable to walk the pain was 
so debilitating. She reports being able to eat; she did not have 
worsening pain after meals. She reports having fevers starting 
___ evening as well as chills. Denies any nausea or vomiting. 
She has chronic diarrhea since starting HIV regimen ___ year ago 
that has somewhat worsened since the pain began.
.
In ED, received 10mg of morphine over several hours in addition 
to 30mg of toradol. She underwent a CT and was found to have 
acute diverticulitis. She received 2L NS and was started on 
cipro/flagyl. 
.
ROS: Reports 1 week of increasing urinary frequency, but not 
urgency or burning. Denies any chest pain, shortness of breath, 
constipation, blood per rectum, or sick contacts. 
 
Past Medical History:
-HIV (last ___ = 210; last viral load on ___ = <55 
copies/ml; h/o of oral candidiasis, no other known OI)
-Cervical intraepithelial neoplasia II-III s/p LEEP x 3
-Depression with hx of hospitalizations
-Gastritis secondary to H. Pylori
-Renal stones
-Cervical spondylosis
-h/o migraines
-Excision of left wrist ganglion cyst ___
-Genital and vaginal condyloma
-Melasma (hyperpigmentation of face)
-Left carpal tunnel syndrome
-s/p Open Cholecystectomy
-C/S x 1 (PPROM -> child died from prematurity)
 
Social History:
___
Family History:
Has 3 sisters and 6 brothers. One brother has an unknown cancer 
and one sister has osteoporosis. Her mother has heart  disease. 
There is a strong family history of HTN. 
 
Physical Exam:
Vitals - T 100.3 BP 105/60 HR 104 RR 20 O2 sat 99% on RA 
GENERAL: lying in bed on her right side, appears uncomfortable, 
but in no distress, grimaces when asked to move
HEENT: normocephalic, atraumatic, no lymphadenopathy appreciated
CARDIAC: tachycardic, nl S1/S2, no murmurs, rubs or gallops 
appreciated, no carotid bruits
LUNG:  CTAB, no crackles or wheezing
ABDOMEN: faint BS, nondistended, tender to palpation in the 
epigastric region and left lower quadrant, no rebound tenderness 
or guarding
EXT: warm to palpation, pedal pulses palpable bilaterally, no 
edema
BACK: + CVA tenderness on the left, none on the right
NEURO: alert and oriented x 3; ___ strength in UE and ___. 
 
Pertinent Results:
___ CT abdomen/pelvis: punctate renal stones noted within the 
interpolar region of the right kidney and the lower pole of the 
left kidney, which are non-obstructing. Bowel wall thickening 
and prominent mesenteric stranding in the descending colon in a 
region of diverticulae. There is an adjacent punctate focus of 
extraluminal air within this region likely representing a 
microperforation. No focal fluid collection is identified. 
.
___ 12:20PM URINE  CA OXAL-FEW
___ 12:20PM URINE  RBC-0 WBC-0 BACTERIA-FEW YEAST-NONE 
___ 12:20PM URINE  BLOOD-MOD NITRITE-NEG PROTEIN-100 
GLUCOSE-NEG KETONE-TR BILIRUBIN-SM UROBILNGN-0.2 PH-5.5 LEUK-NEG
___ 12:20PM URINE  COLOR-Amber APPEAR-Hazy SP ___
___ 12:50PM   ___ PTT-21.2* ___
___ 12:50PM   PLT COUNT-232
___ 12:50PM   NEUTS-70.2* ___ MONOS-4.3 EOS-0.7 
BASOS-0.2
___ 12:50PM   WBC-8.2 RBC-4.05* HGB-11.8* HCT-35.1* MCV-87 
MCH-29.0 MCHC-33.5 RDW-13.7
___ 12:50PM   GLUCOSE-91 UREA N-11 CREAT-0.7 SODIUM-136 
POTASSIUM-3.6 CHLORIDE-104 TOTAL CO2-28 ANION GAP-8
___ 01:00PM   LACTATE-1.___bdominal pain: Ms. ___ came to the ED with abdominal pain 
worse in the left lower quadrant and left flank pain. She 
underwent a CT scan in the ED which showed acute diverticulitis 
with a microperforation showing a focus of free air, but no sign 
of abscess. She was started on ciprofloxacin and flagyl to cover 
gram negative enterics and anaerobes - she had completed 5 days 
at the time of discharge, and will take 5 more days as an 
outpatient to complete a 10 day total course. Her WBC remained 
within normal range without bandemia. Blood cultures showed no 
growth x 4. Her pain resolved and her diet was advanced without 
difficulty. She was transitioned to PO pain medication and 
antibiotics.
.
#HIV: Ms. ___ last CD4 in ___ was 210 and her viral load 
was <55 copies. We continued all of her home medications as well 
as her Bactrim prophylaxis. She remained stable throughout 
hospitalization.  She refused HIV medications for 2 days 
secondary to nausea.  The importance of taking these medications 
was stressed.
.
#FEN/GI: Ms. ___ was made NPO initially for bowel rest. She 
was maintained on IVF throughout hospital stay and electrolytes 
were repleted as needed. When her pain resolved, her diet was 
advanced and tolerated. 
.
#Prophylaxis: She was on heparin SC throughout hospital stay. 
Ambulation was encouraged.
 
Medications on Admission:
MEDICATIONS:
-Darunavir 600 mg by mouth twice a day take (___ study) 
-Maraviroc 150 mg Tablet by mouth twice a day (___ study)
-Raltegravir 400 mg Tablet by mouth twice a day (___ study) 
-Ritonavir 100 mg by mouth twice a day with darunavir 
-Trimethoprim-Sulfamethoxazole 800 mg-160 mg (DS) by mouth once 
a day

 
Discharge Medications:
1. Maraviroc 150 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day).  
2. Darunavir 600 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day).  
3. Raltegravir 400 mg Tablet Sig: One (1) Tablet PO BID (2 times 
a day).  
4. Trimethoprim-Sulfamethoxazole 160-800 mg Tablet Sig: One (1) 
Tablet PO DAILY (Daily).  
5. Ritonavir 100 mg Capsule Sig: One (1) Capsule PO BID (2 times 
a day): take with darunavir
6. Ciprofloxacin 500 mg Tablet Sig: One (1) Tablet PO Q12H 
(every 12 hours) for 5 days.
Disp:*10 Tablet(s)* Refills:*0*
7. Metronidazole 500 mg Tablet Sig: One (1) Tablet PO Q8H (every 
8 hours) for 5 days.
Disp:*15 Tablet(s)* Refills:*0*
8. Acetaminophen 325 mg Tablet Sig: ___ Tablets PO Q6H (every 6 
hours) as needed: No more than 4 grams per day.  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary: 
Acute diverticulitis

Secondary:
HIV

 
Discharge Condition:
Normotensive, oxygen saturation >95% on RA, able to ambulate, 
tolerating PO

 
Discharge Instructions:
It was a pleasure taking care of you at the ___. You were 
admitted to the hospital with abdominal pain. You underwent a CT 
scan which showed signs of acute diverticulitis, an infection in 
your colon. 

Please continue your antibiotics for 10 more days as instructed 
for your infection.

Please return to the hospital if you have worsening pain, 
fevers, chills, diarrhea, nausea, vomiting or other concerning 
symptoms. 
 
Followup Instructions:
___